US08748418B2
Prepared in an analogous manner as described for intermediate A9A or A13A from (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (intermediate A8B) (210 mg, 315 μmol) and commercially available 1-methyl-1H-pyrazol-3-amine [CAS no 1904-31-0] (62.4 mg, 629 μmol). The (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-6,6-difluoro-5-(2-fluoro-5-(1-methyl-1H-pyrazol-3-ylamino)phenyl)-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (174 mg, 80.9%) was obtained as a light yellow foam. MS (ISP): m/z=684 [M+H]+.

reactant | (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 315 μmol, 210 mg | COC1=CC=C(C=C1)C(NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)Br)F)(F)F)(C)C)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C35H34BrF3N2O3
reactant | 1-methyl-1H-pyrazol-3-amine | CN1N=C(C=C1)N | C4H7N3
product | (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-6,6-difluoro-5-(2-fluoro-5-(1-methyl-1H-pyrazol-3-ylamino)phenyl)-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 174 mg, 80.9% | COC1=CC=C(C=C1)C(NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)NC1=NN(C=C1)C)F)(F)F)(C)C)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C39H40F3N5O3
